US06747023B1
1-(tert-Butoxycarbonyl)-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)piperazine
To an ethanol solution (250 ml) of 1-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-3-(methoxycarbonylmethyl)piperazine (2.00 g) was added di-tert-butyl dicarbonate (3.91 g) at room temperature, followed by stirring for 17 hours. The reaction mixture was concentrated under reduced pressure and diethyl ether was added to the concentrate. The crystals thus precipitated were collected by filtration, washed with diethyl ether and dried under reduced pressure, whereby the title compound (2.01 g) was obtained as colorless crystals.

reactant | 1-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-3-(methoxycarbonylmethyl)piperazine | 2.00 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)N1CC(NCC1)CC(=O)OC | C21H22ClN3O6S2
reactant | di-tert-butyl dicarbonate | 3.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(tert-Butoxycarbonyl)-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1)CC(=O)OC | C26H30ClN3O8S2
